US08802712B2
3-Fluoro-4-(8-hydroxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (192 mg, 550 μmol), N-phenyltrifluoromethanesulfonimide (393 mg, 1.10 mmol) and Hünig's base (374 μl, 2.20 mmol) are dissolved in N,N-dimethylformamide (22 ml). The mixture is subsequently stirred at room temperature for 30 min. For work-up, the mixture is poured into water (100 ml) and stirred for a further 30 min. The precipitate formed is then filtered off with suction and rinsed with water. The filter cake is subsequently suspended in a little 2-propanol, filtered off with suction again and dried overnight at room temperature in a high vacuum, giving [1-(4-cyano-2-fluorophenyl)-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]-quinolin-8-yl]trifluoromethanesulfonate (195 mg, 406 μmol) as a solid. MS: 481.0 (M+H+), TLC (HPTLC): Rf=0.56 (ethyl acetate/ethanol 2:1, parts by volume).

reactant | 3-Fluoro-4-(8-hydroxy-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 550 μmol, 192 mg | FC=1C=C(C#N)C=CC1C1=NN(C=2C=NC=3C=C(C(=CC3C21)O)OC)C | C19H13FN4O2
reactant | N-phenyltrifluoromethanesulfonimide | 1.10 mmol, 393 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Hünig's base | 2.20 mmol, 374 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | [1-(4-cyano-2-fluorophenyl)-7-methoxy-3-methyl-3H-pyrazolo[3,4-c]-quinolin-8-yl]trifluoromethanesulfonate | 406 μmol, 195 mg | C(#N)C1=CC(=C(C=C1)C1=NN(C=2C=NC=3C=C(C(=CC3C21)OS(=O)(=O)C(F)(F)F)OC)C)F | C20H12F4N4O4S
